US05532367
This compound is prepared in a manner analogous to that of Step C of Example 7, using 2.1 grams (0.009 mole) of 2-amino-3-cyano-6-methyl-5-phenylcarbonylpyrazine and 0.9 gram (0.009 mole) chloroformamidine hydrochloride in 20 mL of diglyme, yielding 2,4-diamino-7-methyl-6-phenylcarbonylpteridine.

reactant | 2-amino-3-cyano-6-methyl-5-phenylcarbonylpyrazine | 0.009 mole, 2.1 grams | NC1=NC(=C(N=C1C#N)C(=O)C1=CC=CC=C1)C | C13H10N4O
reactant | chloroformamidine hydrochloride | 0.009 mole, 0.9 gram | Cl.ClC(=N)N
solvent | diglyme | 20 mL | COCCOCCOC | C6H14O3
product | 2,4-diamino-7-methyl-6-phenylcarbonylpteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C(=O)C1=CC=CC=C1)C | C14H12N6O
